Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CHIEF COMPLAINT: s/p fall  
REASON FOR TRANSFER: Bradycardia  
 
Major Surgical or Invasive Procedure:
Electrophysiology Study (___)
Permanent Pacemaker Placement ___, ___ Sensia)
 
History of Present Illness:
___ PMH dementia, CKD, HTN who fell at home in the bathroom 
___ morning and son found him down- unclear if tripped or 
related to bradycardia. He was found by EMS to be bradycardic to 
the ___ and was taken to OSH ED. Head CT negative. Was admitted 
for monitoring and was noted to be bradycardic to the ___ w/a 6 
sec pause on telemetry. Cards consulted and recommended pacer, 
but family didn't want pacer placed there and requested 
transfer. The reason being that PCP is here and wanted to be at 
___. By the time he got the the BRICU he was in ___, 
asymptomatic, first degree AV delay. Echo done this morning that 
had LV with nl EF 60%, stage 1 diastolic dysfuction, ___ 
dilated, RA/RV look good. Mild MR.  
___ on arrival, T:98.1 BP173/70 P60 RR20 O2 sat 98%RA. 
Patient had no complaints, history obtained from daughter due to 
patient's underlying dementia. Daughter corroborates above story 
and adds that recently his Aricept was increased from 10mg to 
20mg  
 
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
-Dementia  
-CKD  
-Falls  
-Anemia  
-Gout  
-COPD  
-HTN  
-Glaucoma  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
==================================
VS: T: 98.1 BP173/70 P60 RR20 O2 sat 98%RA  
General: AO x 2 (knows name and president), ___ male, 
resting in bed, NAD  
HEENT: NC, small area of swelling over left forehead, sclera 
anicteric, PERRLA  
Neck: supple, no LAD, could not assess JVP ___ facial hair  
CV: RRR, normal S1/S2, no murmurs, rubs, gallops  
Lungs: CTAB no wheezing, rales, rhonchi  
Abdomen: Soft, NT/ND, +BS, no hepatomegaly or splenomegaly  
Ext: WWP, no clubbing, cyanosis or edema  
Neuro: CNII-XII, strength and sensation grossly normal, gait not 
assessed  
Skin: No rashes or lesions  
PULSES: 2+ DP pulses  

DISCHARGE PHYSICAL EXAMINATION:
==================================
Cardiac:  s/p pacemaker placement adjacent to left shoulder.  
Dressing is clean, dry, and intact.
Otherwise Exam Unchanged

 
Pertinent Results:
ADMISSION LABS
================

___ 07:30AM BLOOD WBC-6.3 RBC-4.29* Hgb-12.5* Hct-39.1* 
MCV-91 MCH-29.0 MCHC-31.8 RDW-12.3 Plt ___
___ 07:30AM BLOOD ___ PTT-29.9 ___
___ 07:30AM BLOOD Glucose-83 UreaN-24* Creat-1.6* Na-140 
K-4.2 Cl-105 HCO3-26 AnGap-13
___ 07:30AM BLOOD CK(CPK)-45*
___ 07:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:30AM BLOOD Calcium-9.5 Phos-3.0 Mg-2.3

DISCHARGE LABS
================

___ 07:21AM BLOOD WBC-7.1 RBC-3.90* Hgb-11.5* Hct-35.1* 
MCV-90 MCH-29.4 MCHC-32.6 RDW-12.3 Plt ___
___ 07:21AM BLOOD Glucose-110* UreaN-34* Creat-1.9* Na-138 
K-4.5 Cl-103 HCO3-24 AnGap-16
___ 07:21AM BLOOD Calcium-8.9 Phos-2.0* Mg-1.9

STUDIES
===========
CXR (___):  1.  Standard position of dual-lead pacer with no 
pneumothorax.  2.  Non-specific patchy and linear opacities at 
the right base, possibly due to atelectasis, short-term followup 
radiographs would be helpful to document resolution and to 
exclude active infection or malignancy.  3.  Mild elevation of 
right hemidiaphragm.
 
Brief Hospital Course:
BRIEF SUMMARY STATEMENT:  Mr. ___ is an ___ PMH dementia, 
CKD, HTN who is s/p fall found to be bradycardic to ___ with 
evidence of slow junctional escape mechanism. Pt. had EP study 
that revealed sinus node and AV node disease. As such, pt. had 
permanent pacemaker placed on ___ ___, Sensia, 
SEDR01/___; set for DDD 60/130). Pt. remained stable 
post-procedure with post-placement CXR revealing stable lead 
placement. Pt. was discharged on 2 day course of prophylactic 
keflex and with instructions to follow-up with cardiology in 
___.

ACTIVE ISSUES
================
# Sinus Node and AV Nodal Disease:  Pt. found to have 
bradycardia at OSH in the setting of recent fall episode.  
Telemetry strip shows bradycardia with slow junctional escape.  
Orthostatics negative.  Trops negative x1.  ECG without 
concerning ischemic changes.  EP study on ___ showed Sinus 
and AV nodal disease.  As such, pt. had PPM on ___ 
___, Sensia, SEDR01/___; set for DDD 60/130.  
Interrogated in AM of ___ without issue.

CHRONIC ISSUES
===============
# HTN:  Stable.  Continued on amlodipine
 
# CKD: Creatinine at baseline (1.8-2.0).

# GERD: Continue home pantoprazole  
 
# Dementia:  Continued Donepezil, trazodone, and home miralax

# Glaucoma: Continued home lantanoprost and timolol drops  

# Gout: Continued home allopurinol  

TRANSITIONAL ISSUES
=======================
# Antibiotics: Pt. to continue prophylactic course of keflex for 
2 additional days (including day of discharge)

# EP Follow-Up: Pt. asked to follow-up with cardiology in 
___. Dr. ___ was recommended. Contact 
information provided.

# On CXR, Non-specific patchy and linear opacities at the right 
base, possibly due to atelectasis, short-term followup 
radiographs would be helpful to document resolution and to 
exclude active infection or malignancy.

# CODE: Full code (confirmed) 

# CONTACT: ___ (HCPs/daughters): (home) ___ 
or (Cell) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Donepezil 10 mg PO HS 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES BID 
8. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
9. TraZODone 50 mg PO HS 
10. Polyethylene Glycol 17 g PO DAILY 
11. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Donepezil 10 mg PO HS 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES BID 
8. Pantoprazole 40 mg PO Q24H 
9. Polyethylene Glycol 17 g PO DAILY 
10. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
11. TraZODone 50 mg PO HS 
12. Cephalexin 500 mg PO Q8H Duration: 5 Doses 
Please take all 5 doses. 
RX *cephalexin 500 mg 1 capsule(s) by mouth three times a day 
Disp #*5 Capsule Refills:*0
13. Acetaminophen 650 mg PO Q6H:PRN pain, fever 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===================
# Symptomatic Bradycardia
# Sinus Node Dysfunction
# Atrioventricular Node Dysfunction

SECONDARY DIAGNOSES
===================
# Dementia
# Chronic Kidney Disease
# Anemia
# Gout
# Chronic Obstructive Pulmonary Disease
# Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___, 
 
It was a pleasure taking care of you at ___!  
You were admitted to the hospital after falling at home and were 
found to have a dangerously slow heart rate.  The heart rhythm 
specialists performed a study which showed that you have an 
abnormal heart beat.  As such, you had a pacemaker placed.  You 
had no other symptoms while you were in the hospital.

Please be sure to follow-up with Dr. ___, 
MD.  ___ will be important for you to have frequent checks of 
your pacemaker to ensure it is working properly.

We wish you a speedy recovery.

All the best,

Your ___ Care Team
 
Followup Instructions:
___